US08877794B2
46.5 Synthesis of 3-benzyl-3-(3-methoxyphenyl)azetidine
A 1M lithium aluminium hydride solution in tetrahydrofuran (14 ml, 14 mmol) was added to a stirred solution of 3-benzyl-3-(3-methoxyphenyl)azetidin-2-one (1.7 g, 6.36 mmol) in tetrahydrofuran and heated to reflux for 4 h. The solution was cooled and quenched by careful addition of a 2M sodium hydroxide solution and then extracted with ether. The organic phase was dried over sodium bicarbonate and purified on 12 g SiO2 using 20% methanol in dichloromethane (clear colourless oil). m=520 mg (32%)

reactant | lithium aluminium hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-benzyl-3-(3-methoxyphenyl)azetidin-2-one | 6.36 mmol, 1.7 g | C(C1=CC=CC=C1)C1(C(NC1)=O)C1=CC(=CC=C1)OC | C17H17NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 14 mmol, 14 ml | O1CCCC1 | C4H8O
product | 3-benzyl-3-(3-methoxyphenyl)azetidine | C(C1=CC=CC=C1)C1(CNC1)C1=CC(=CC=C1)OC | C17H19NO
